US05292767
trans-2-acetylthiomethyl-4-carboxytetrahydrothiophene (compound No. 6-1)
To a stirred solution of trans-2-acetylthiomethyl-4-tert-butoxycarbonyltetrahydrothiophene (compound No. 4-1, 130 mg) in methylene chloride (2 ml), trifluoroacetic acid (1 ml) was added and the mixture was stirred for 2 hours at room temperature. The mixture was concentrated in vacuo and the oily residue was purified by a silica gel column chromatography to give 112 mg (quantitative yield) of the titled compound (compound No. 6-1) as white powder.

reactant | trans-2-acetylthiomethyl-4-tert-butoxycarbonyltetrahydrothiophene | C(C)(=O)SC[C@@H]1SC[C@H](C1)C(=O)OC(C)(C)C | C12H20O3S2
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | trans-2-acetylthiomethyl-4-carboxytetrahydrothiophene | 112 mg, quantitative yield | C(C)(=O)SC[C@@H]1SC[C@H](C1)C(=O)O | C8H12O3S2
